US07473784B2
To a solution of (2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)methanol (0.71 g, 3.18 mmol, 1.0 eq.) in CH2Cl2 (11 mL) under nitrogen at 0° C. was added SOCl2 (1.0 mL, 13.7 mmol, 4.3 eq.). After 5 min., the cold bath was removed, and the reaction mixture was stirred to room temperature for 10 min. and then refluxed for 2.75 hr. After cooling to room temperature, the reaction mixture was concentrated in vacuo to give 5-(chloromethyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine dihydrochloride as a white solid (0.90 g, 90% yield).

reactant | (2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)methanol | 3.18 mmol, 0.71 g, 1.0 eq. | C(C)(C)NC=1SC2=NC(=CC=C2N1)CO | C10H13N3OS
reactant | SOCl2 | 13.7 mmol, 1.0 mL, 4.3 eq. | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 11 mL | C(Cl)Cl | CH2Cl2
product | 5-(chloromethyl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine dihydrochloride | 0.90 g, 90% yield | Cl.Cl.ClCC1=CC=C2C(=N1)SC(=N2)NC(C)C | InChI=1S/C10H12ClN3S.2ClH/c1-6(2)12-10-14-8-4-3-7(5-11)13-9(8)15-10;;/h3-4,6H,5H2,1-2H3,(H,12,14);2*1H
